US05316755
1-(2,4,6-Triiodophenoxy)-3,7-dimethyl-6-octene
To a stirred solution of citronellol (4.5 g, 28.8 mmol) and triethylamine (5.2 ml, 34.6 mmol, 1.2 eq) in dichloromethane (50 ml) cooled to 0° C. was added dropwise, a solution of methanesulfonyl chloride (2.46 ml, 28.8 mmol) in dichloromethane (50 ml). The solution was stirred for 1 hr at 0° C. under nitrogen and then water was added. The dichloromethane layer was dried over magnesium sulfate after washing with saturated aqueous sodium chloride and then concentrated in vacuo to give an oil. 1H-NMR (300 MHZ) spectrum of the oil indicated the desired methanesulfonate ester. The methanesulfonate ester was added to a stirred mixture of 2,4,6-triiodophenol (13.6 g, 28.8 mmol) and potassium carbonate (4.0 g, 28.8 mmol) in dimethylformamide (50 ml). The mixture was heated to 100° C. for 30 minutes and cooled to room temperature. The crude product was isolated by partitioning the reaction mixture between water and dichloromethane. The organic layer was concentrated under vacuum to give an oil. The oil was purified by flashing through basic alumina with hexanes to give the desired product in 15% yield as a light-sensitive oil.

reactant | citronellol | 28.8 mmol, 4.5 g | CC(C)=CCCC(C)CCO | C10H20O
reactant | triethylamine | 34.6 mmol, 5.2 ml, 1.2 eq | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 28.8 mmol, 2.46 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2,4,6-triiodophenol | 28.8 mmol, 13.6 g | IC1=C(C(=CC(=C1)I)I)O | C6H3I3O
reactant | potassium carbonate | 28.8 mmol, 4.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(2,4,6-Triiodophenoxy)-3,7-dimethyl-6-octene | 15% yield | IC1=C(OCCC(CCC=C(C)C)C)C(=CC(=C1)I)I | C16H21I3O
